US05025031
2-[3-(Phenylmethoxy)phenoxy]ethanol
A slurry of 38.6 g (0.25 mole) of o-(2-hydroxyethyl)resorcinol (Lancaster), 44.3 g (0.35 mole) of benzyl chloride, and 55.2 g (0.40 mole) of potassium carbonate in 200 ml of acetone was stirred and heated at reflux for 72 hr. The reaction mixture was filtered and the filtrate was concentrated under vacuum. The crystalline residue was recrystallized from toluene/petroleum ether to give 56.3 g (92%) of the title compound as white flakes, mp 40.5°-43.5° C.

reactant | o-(2-hydroxyethyl)resorcinol | 0.25 mole, 38.6 g | OCCC1=C(O)C=CC=C1O | C8H10O3
reactant | benzyl chloride | 0.35 mole, 44.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 0.40 mole, 55.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-[3-(Phenylmethoxy)phenoxy]ethanol | 56.3 g, 92% | C1(=CC=CC=C1)COC=1C=C(OCCO)C=CC1 | C15H16O3
